US06239151B1
In a manner analogous to that described in the first paragraph of Example 5, starting from 0.058 g of a mixture of (E)-2′-(D-alanyl)-2′-cyclopentyl-2(R)-[1(S)-[tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methylvalero-hydrazide and (E)-2′-(D-alanyl)-2′-cyclopentyl-2(S)-[1(R)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methylvalerohydrazide there was obtained 0.048 mg of a mixture of (E)-2′-(D-alanyl)-2′-cyclopentyl-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide p-toluene-sulphonate and (E)-2′-(D-alanyl)-2′-cyclopentyl-2(S)-[1(R)-(hydroxycarbonyl)-4-phenyl-3-butenyl]-methylvalerohydrazide p-toluenesulphonate in the form of a pale pink solid.

reactant | 4-methylvalero-hydrazide | CC(CCC(=O)NN)C | C6H14N2O
reactant | (E)-2′-(D-alanyl)-2′-cyclopentyl-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide p-toluene-sulphonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@H](C)C(=O)N(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NO)=O)=O)C1CCCC1
reactant | (E)-2′-(D-alanyl)-2′-cyclopentyl-2(S)-[1(R)-(hydroxycarbonyl)-4-phenyl-3-butenyl]-methylvalerohydrazide p-toluenesulphonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@H](C)C(=O)N(NC([C@@](CCC)([C@@H](C\C=C\C1=CC=CC=C1)C(=O)O)C)=O)C1CCCC1
product | (E)-2′-(D-alanyl)-2′-cyclopentyl-2(S)-[1(R)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methylvalerohydrazide | N[C@H](C)C(=O)N(NC([C@@H](CC(C)C)[C@@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)C1CCCC1 | C30H46N4O5
